US03995056
A mixture of 275 mg of ethyl 4-(m-benzoyl-phenyl)-3-butenoate, 2.75 ml of ethanol, 0.275 ml of ethanol, 0.275 ml of water and 0.08 ml of 12.5N potassium hydroxide was refluxed for 30 minutes and then was evaporated to dryness. The residue was dissolved in 10 ml of water and the solution was treated with activated carbon, and filtered. 3 ml of N hydrochloric acid were added thereto and the mixture was extracted with methylene chloride. The organic phase was washed with water, dried over sodium sulfate, treated with activated carbon, filtered and evaporated to dryness under reduced pressure to obtain 166 mg of 4-(m-benzoyl-phenyl)-3-butenoic acid in the form of a yellow oil soluble in chloroform and ethanol and insoluble in water.

reactant | ethyl 4-(m-benzoyl-phenyl)-3-butenoate | 275 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C=CCC(=O)OCC | C19H18O3
reactant | ethanol | 2.75 ml | C(C)O | C2H6O
reactant | ethanol | 0.275 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 12.5N, 0.08 ml | [OH-].[K+]
solvent | water | 0.275 ml | O | H2O
product | 4-(m-benzoyl-phenyl)-3-butenoic acid | 166 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C=CCC(=O)O | C17H14O3
